US06491989B1
2,3,5-Trifluoro-6-octyl-1-(4-octyloxyphenyl)naphthalene
From 4-(2,3,5-trifluoro-6-octylnaphthalen-1-yl)phenol and 1-octyl bromide by means of the Williamson ether synthesis.

reactant | 4-(2,3,5-trifluoro-6-octylnaphthalen-1-yl)phenol | FC1=C(C2=CC=C(C(=C2C=C1F)F)CCCCCCCC)C1=CC=C(C=C1)O | C24H25F3O
reactant | 1-octyl bromide | C(CCCCCCC)Br | C8H17Br
solvent | ether | CCOCC | C4H10O
product | 2,3,5-Trifluoro-6-octyl-1-(4-octyloxyphenyl)naphthalene | FC1=C(C2=CC=C(C(=C2C=C1F)F)CCCCCCCC)C1=CC=C(C=C1)OCCCCCCCC | C32H41F3O
